US05952362
To a mixture of 2-methyl-1,3-dinitro-benzene (10 g) and 1:1 concentrated sulfuric acid-water (100 mL) at 80° C. was added potassium bromate (10.1 g) portionwise over 2-21/2 hr. The mixture was stirred at 80° C. for an additional 2 hr and cooled to room temperature. The mixture was poured into 500 g ice and then extracted with diethyl ether (300 mL). The ether layer was washed with 10% sodium bicarbonate solution (250 mL), brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by flash column chromatography on silica gel eluting with ethyl acetate:hexane (4:96) to afford 5-bromo-2-methyl-1,3-dinitro-benzene (5.3 g).

reactant | 2-methyl-1,3-dinitro-benzene | 10 g | CC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C7H6N2O4
reactant | potassium bromate | 10.1 g | Br(=O)(=O)[O-].[K+]
solvent | sulfuric acid water | 100 mL | S(O)(O)(=O)=O.O
product | 5-bromo-2-methyl-1,3-dinitro-benzene | 5.3 g | BrC=1C=C(C(=C(C1)[N+](=O)[O-])C)[N+](=O)[O-] | C7H5BrN2O4
